US07713996B2
Borane tetrahydrofuran complex (1 M solution in tetrahydrofuran, 21 mL, 21 mmol) was added to a solution of 8-bromo-1,3,4,5-tetrahydro-benzo[b]azepin-2-one (prepared from 7-bromo-3,4-dihydro-2H-naphthalen-1-one in analogy with the general procedure described in J Chem. Soc. (C) 1969, 183; 1.00 g, 4.17 mmol) in tetrahydrofuran, and the solution was heated at reflux for 2 h. After cooling, methanol (21 mL) was added, and volatile material was removed by distillation. The residue was taken up in 5% ethanolic sulfuric acid solution (12 mL) and heated at reflux for 2 h, then basified to pH 10 by addition of 2 M aq. sodium hydroxide solution and partitioned between water and ethyl acetate. The organic layer was dried (MgSO4) and evaporated. Chromatography (SiO2, heptane-ethyl acetate 2:1) yielded 8-bromo-2,3,4,5-tetrahydro-1H-benzo[b]azepine (865 mg, 92%). White solid, MS (ISP) m/e 226.1 (M+H).

reactant | Borane tetrahydrofuran | 21 mmol, 1 M, 21 mL | O1CCCC1.B
reactant | 8-bromo-1,3,4,5-tetrahydro-benzo[b]azepin-2-one | BrC=1C=CC2=C(NC(CCC2)=O)C1 | C10H10BrNO
reactant | 7-bromo-3,4-dihydro-2H-naphthalen-1-one | BrC1=CC=C2CCCC(C2=C1)=O | C10H9BrO
reactant | methanol | 21 mL | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-bromo-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 865 mg, 92% | BrC=1C=CC2=C(NCCCC2)C1 | C10H12BrN
